US09278931B2
B) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1H-pyrazole-4-carboxamide hydrochloride
tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(1H-pyrazol-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate (72 mg) was dissolved in THF (0.5 mL), and the mixture was ice-cooled to 0° C. 4N Hydrochloric acid/cyclopentyl methyl ether solution (4.5 mL) was added, and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (45 mg).

reactant | tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(1H-pyrazol-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 72 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NNC1)CC1CC1)=O | C22H28N4O3
reactant | Hydrochloric acid cyclopentyl methyl ether | 4N, 4.5 mL | Cl.COC1CCCC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1H-pyrazole-4-carboxamide hydrochloride | 45 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NNC1 | InChI=1S/C17H20N4O.ClH/c22-17(13-9-19-20-10-13)21-14-5-3-12(4-6-14)15-7-16(15)18-8-11-1-2-11;/h3-6,9-11,15-16,18H,1-2,7-8H2,(H,19,20)(H,21,22);1H/t15-,16+;/m0./s1
